US07214698B2
0.10 g palladium (5% on activated charcoal) were added to. a solution of 0.30 g (0.41 mmol) (R)—N-(2-benzyloxy-5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl)phenyl)-benzenesulphonamide in 15 mL ethanol. The reaction mixture was shaken in an autoclave under a hydrogen pressure of 20 psi at ambient temperature for 3 h. The hydrogen pressure was released, the palladium was filtered off and the filtrate was freed from solvent using the rotary evaporator. The residue was purified by flash column chromatography [methylene chloride/methanol/ammonia (90:10:1)]. 0.20 g (0.31 mmol, 75%) (R)—N-(5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl}-2-hydroxy-phenyl)-benzenesulphonamide was obtained as a colourless solid.

reactant | (R)—N-(2-benzyloxy-5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl)phenyl)-benzenesulphonamide | 0.41 mmol, 0.30 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNC(CCN1C=NC(=C1)C1=CC=CC=C1)(C)C)O)NS(=O)(=O)C1=CC=CC=C1 | C35H38N4O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium | 0.10 g | [Pd] | Pd
product | (R)—N-(5-{2-[1,1-dimethyl-3-(4-phenylimidazol-1-yl)-propylamino]-1-hydroxyethyl}-2-hydroxy-phenyl)-benzenesulphonamide | 0.31 mmol, 0.20 g, 75% | CC(CCN1C=NC(=C1)C1=CC=CC=C1)(C)NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)O | C28H32N4O4S
